US07034039B2
A mixture of tert-butyl[6-(hydrazinocarbonyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.23 g, 0.50 mmol) and trimethyl orthoacetate (2.0 mL, 11 mmol) in 1-butanol (10 mL) was refluxed for 20 min. To the reaction mixture was added 1,8-diazabicyclo[5.4.0]-7-undecene (0.075 mL, 0.50 mmol), and then the mixture was refluxed for 1 h. The resulting reaction mixture was neutralized with acetic acid (0.040 mL, 0.70 mmol) and concentrated under reduced pressure. The residue was partitioned between water (10 mL) and ethyl acetate (30 mL). The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=2:1 (v/v)) to give tert-butyl[2-isobutyl-6-(5-methyl-1,3,4-oxadiazol-2-yl)-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.22 g, 91%) as crystals.

reactant | tert-butyl[6-(hydrazinocarbonyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.50 mmol, 0.23 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C(=O)NN)=O)CC(C)C)=O | C26H32N4O4
reactant | trimethyl orthoacetate | 11 mmol, 2.0 mL | C(C)(OC)(OC)OC | C5H12O3
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 0.50 mmol, 0.075 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | acetic acid | 0.70 mmol, 0.040 mL | C(C)(=O)O | C2H4O2
solvent | 1-butanol | 10 mL | C(CCC)O | C4H10O
product | tert-butyl[2-isobutyl-6-(5-methyl-1,3,4-oxadiazol-2-yl)-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.22 g, 91% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C=1OC(=NN1)C)=O)CC(C)C)=O | C28H32N4O4
